US04618677
The procedure described in Example 1(b) was followed, using 15.2 g of thiourea, 32.6 g of 1-phenethyl-4-(3-chloropropyl)piperazine dihydrochloride, 20.0 g of triethylamine and 250 ml of reagent ethanol The hydrolysis was effected with 10.0 g of sodium hydroxide in 40 ml of water. Work-up, as described above, gave 26.4 g (79% of theory) of 3-(4-phenethylpiperazin-1-yl)propanethiol dihydrochloride as an off-white crystalline solid, M.p. 269°-272° C.

reactant | thiourea | 15.2 g | NC(=S)N | CH4N2S
reactant | 1-phenethyl-4-(3-chloropropyl)piperazine dihydrochloride | 32.6 g | Cl.Cl.C(CC1=CC=CC=C1)N1CCN(CC1)CCCCl
reactant | triethylamine | 20.0 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 10.0 g | [OH-].[Na+]
solvent | water | 40 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 3-(4-phenethylpiperazin-1-yl)propanethiol dihydrochloride | 26.4 g, 79% | Cl.Cl.C(CC1=CC=CC=C1)N1CCN(CC1)CCCS | InChI=1S/C15H24N2S.2ClH/c18-14-4-8-16-10-12-17(13-11-16)9-7-15-5-2-1-3-6-15;;/h1-3,5-6,18H,4,7-14H2;2*1H
